US09056874B2
(±)-2-(1-Amino-2,2,2-trifluoro-1-(5-methoxy-7-methyl-1H-indol-4-yl)ethyl)benzo[d]oxazole-5-carbonitrile
To a suspension of (±)-tert-butyl 4-((tert-butylsulfinylimino)(5-cyanobenzo[d]oxazol-2-yl)methyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate (56 mg, 0.105 mmol) and tetramethylammonium fluoride (29.3 mg, 0.314 mmol) in THF (1 mL), TESCF3 (38.6 mg, 0.209 mmol) was added at 0° C. Then, the reaction mixture was allowed to reach rt. After stirring for 2 h, additional tetramethylammonium fluoride (9.76 mg, 0.105 mmol) and TESCF3(38.6 mg, 0.209 mmol) were added. After stirring for 0.5 h at rt, the reaction was diluted with aq. NH4Cl and brine. The layers were separated and the aqueous layer was extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4, filtered, and concentrated. The resulting residue was dissolved in HCl (1.25 M in MeOH) (0.840 mL, 1.050 mmol) and stirred at rt for 15 min. At this point the reaction was warmed to 50° C. and heated at this temperature for 45 minutes. The mixture was concentrated and the resulting residue was dissolved in MeOH (1 mL). Cs2CO3 (137 mg, 0.420 mmol) was added and the mixture was stirred at 60° C. for 1.5 h. At this point an additional aliquot of Cs2CO3 (137 mg, 0.420 mmol) was added. After stirring for 50 min, the reaction mixture was cooled to rt, concentrated, and then diluted with aq. NH4Cl, brine and EtOAc. The layers were separated and the aqueous layer extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated. The resulting residue was purified by flash column chromatography on silica gel (heptane/EtOAc=100:0 to 35:65). 1H NMR (400 MHz, CD2Cl2) δ ppm 8.15-8.17 (br. m, 1H), 8.02 (d, J=1.26 Hz, 1H), 7.57 (m, 1H), 7.48 (m, 1H), 7.18 (dd, J=3.03, 2.78 Hz, 1H), 6.95 (br. s, 1H), 6.62 (s, 1H), 3.28 (s, 3H), 2.43 (s, 3H). HRMS calcd. for C20H15F3N4O2 (M+H)+ 401.1220. found 401.1221.

reactant | (±)-tert-butyl 4-((tert-butylsulfinylimino)(5-cyanobenzo[d]oxazol-2-yl)methyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | 0.105 mmol, 56 mg | C(C)(C)(C)S(=O)N=C(C1=C2C=CN(C2=C(C=C1OC)C)C(=O)OC(C)(C)C)C=1OC2=C(N1)C=C(C=C2)C#N | C28H30N4O5S
reactant | tetramethylammonium fluoride | 0.314 mmol, 29.3 mg | [F-].C[N+](C)(C)C
reactant | TESCF3 | 0.209 mmol, 38.6 mg | [Si](CC)(CC)(CC)C(F)(F)F | C7H15F3Si
reactant | tetramethylammonium fluoride | 0.105 mmol, 9.76 mg | [F-].C[N+](C)(C)C
reactant | TESCF3 | 0.209 mmol, 38.6 mg | [Si](CC)(CC)(CC)C(F)(F)F | C7H15F3Si
reactant | HCl | 1.050 mmol, 1.25 M, 0.840 mL | Cl | ClH
reactant | Cs2CO3 | 0.420 mmol, 137 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Cs2CO3 | 0.420 mmol, 137 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | NH4Cl | [NH4+].[Cl-]
solvent | brine | [Cl-].[Na+].O
product | (±)-2-(1-Amino-2,2,2-trifluoro-1-(5-methoxy-7-methyl-1H-indol-4-yl)ethyl)benzo[d]oxazole-5-carbonitrile | NC(C(F)(F)F)(C1=C2C=CNC2=C(C=C1OC)C)C=1OC2=C(N1)C=C(C=C2)C#N | C20H15F3N4O2
